### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Angle/Incenter): unoriented angle bisection

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas giving unoriented angles involving the incenter and excenters of a triangle as expressions involving dividing angles of the triangle by 2, deduced from oriented bisection lemmas.

---

- [x] depends on: #30981
- [x] depends on: #30982
- [x] depends on: #31205
- [x] depends on: #32019
- [x] depends on: #32021
- [x] depends on: #32259
- [x] depends on: #32260
- [x] depends on: #32270
- [x] depends on: #32273
- [x] depends on: #32278

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 1]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+section Unoriented
+
+variable (t : Triangle ℝ P)
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The incenter of a triangle bisects the angle at a vertex. -/
+lemma angle_incenter_eq_angle_div_two {i₁ i₂ i₃ : Fin 3} (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃)
+    (h₂₃ : i₂ ≠ i₃) :
+    ∠ (t.points i₂) (t.points i₁) t.incenter = ∠ (t.points i₂) (t.points i₁) (t.points i₃) / 2 := by
+  let S : AffineSubspace ℝ P := affineSpan ℝ (Set.range t.points)
```
Comment (wwylele) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean:282]: Random idea and not in the scope of the PR: should we have a "planarize" tactic that handles restricting everything to the subspace?

**Review by wwylele — APPROVED** [review]
Looks good!

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Incenter.lean:282]: Something like that would be reasonable (once we have enough examples to show e.g. what's most convenient in terms of choosing the two-dimensional subspace / showing that all points lie in it / possibly dealing with any special cases where actually the ambient space is less than two-dimensional). Note that we don't yet have a full set of `map` / `restrict` lemmas for all simplex definitions, though that might only matter when they're missing for the particular definition you wish to transport to a two-dimensional subspace in a particular case.

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 2]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
     exact t.excenter_singleton_injective.ne h₁₂ h₁'
   · exact h₁'
 
+end Oriented
+
+section Unoriented
+
+variable (t : Triangle ℝ P)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean]:
```suggestion
```
is unused

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 3]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+  have : Module.Oriented ℝ S.direction (Fin 2) :=
+    ⟨Basis.orientation (finBasisOfFinrankEq _ _ hf2.out)⟩
+  suffices ∠ (t'.points i₂) (t'.points i₁) t'.incenter =
+      ∠ (t'.points i₂) (t'.points i₁) (t'.points i₃) / 2 by
+    simpa [t', ← S.angle_coe] using this
+  exact angle_eq_angle_div_two_of_oangle_eq_of_sSameSide (t'.independent.injective.ne h₁₂.symm)
+    (t'.oangle_incenter_eq h₁₂ h₁₃ h₂₃)
+    (t'.sSameSide_affineSpan_pair_incenter_point h₂₃.symm h₁₃.symm h₁₂.symm)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean]:
```suggestion
```

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 4]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+    ⟨Basis.orientation (finBasisOfFinrankEq _ _ hf2.out)⟩
+  suffices ∠ (t'.points i₂) (t'.points i₁) (t'.excenter {i₁}) =
+      ∠ (t'.points i₂) (t'.points i₁) (t'.points i₃) / 2 by
+    simpa [t', ← S.angle_coe, t.excenterExists_singleton i₁] using this
+  refine angle_eq_angle_div_two_of_oangle_eq_of_sSameSide (t'.independent.injective.ne h₁₂.symm)
+    (t'.oangle_excenter_singleton_eq h₁₂ h₁₃ h₂₃) ?_
+  rw [Set.pair_comm]
+  exact t'.sSameSide_affineSpan_pair_excenter_singleton_point h₁₃.symm h₂₃.symm h₁₂
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean]:
```suggestion
```

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 5]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+  have : Module.Oriented ℝ S.direction (Fin 2) :=
+    ⟨Basis.orientation (finBasisOfFinrankEq _ _ hf2.out)⟩
+  suffices ∠ (t'.points i₁) (t'.points i₂) (t'.excenter {i₁}) =
+      (∠ (t'.points i₁) (t'.points i₂) (t'.points i₃) + π) / 2 by
+    simpa [t', ← S.angle_coe, t.excenterExists_singleton i₁] using this
+  exact angle_eq_angle_add_pi_div_two_of_oangle_eq_add_pi_of_sSameSide
+    (t'.independent.injective.ne h₁₂) (t'.oangle_excenter_singleton_eq_add_pi h₁₂ h₁₃ h₂₃)
+    (t'.sSameSide_affineSpan_pair_excenter_singleton_point h₁₃.symm h₂₃.symm h₁₂)
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean]:
```suggestion
```

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 6]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+lemma angle_excenter_singleton_eq_angle_div_two {i₁ i₂ i₃ : Fin 3} (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃)
+    (h₂₃ : i₂ ≠ i₃) :
+    ∠ (t.points i₂) (t.points i₁) (t.excenter {i₁}) =
+      ∠ (t.points i₂) (t.points i₁) (t.points i₃) / 2 := by
+  let S : AffineSubspace ℝ P := affineSpan ℝ (Set.range t.points)
+  let t' : Triangle ℝ S := t.restrict S le_rfl
+  have hf2 : Fact (finrank ℝ S.direction = 2) := ⟨by
+    simp_rw [S]
+    rw [direction_affineSpan, t.independent.finrank_vectorSpan]
+    simp⟩
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean:305]: you repeat this code block four times. Can this be some lemma?

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 7]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+  suffices ∠ (t'.points i₃) (t'.points i₂) (t'.excenter {i₁}) =
+      (π - ∠ (t'.points i₃) (t'.points i₂) (t'.points i₁)) / 2 by
+    simpa [t', ← S.angle_coe, t.excenterExists_singleton i₁] using this
+  refine angle_eq_pi_sub_angle_div_two_of_oangle_eq_add_pi_of_sOppSide
+    (t'.independent.injective.ne h₂₃.symm) ?_
+    (t'.sOppSide_affineSpan_pair_excenter_singleton_point h₁₃ h₁₂ h₂₃.symm)
+  rw [← sub_eq_iff_eq_add, oangle_rev]
+  nth_rw 2 [oangle_rev]
+  rw [sub_eq_add_neg, ← neg_add, neg_inj, eq_comm]
+  exact t'.oangle_excenter_singleton_eq_add_pi h₁₂ h₁₃ h₂₃
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean]:
```suggestion
  simp_rw [← sub_eq_iff_eq_add, oangle_rev (excenter t' {i₁}), oangle_rev (t'.points i₁),
    sub_eq_add_neg, ← neg_add, neg_inj, eq_comm, t'.oangle_excenter_singleton_eq_add_pi h₁₂ h₁₃ h₂₃]
```
slightly nicer?

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 8]
```diff
@@ -263,6 +265,102 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
 
+end Oriented
+
+section Unoriented
+
+variable (t : Triangle ℝ P)
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The incenter of a triangle bisects the angle at a vertex. -/
+lemma angle_incenter_eq_angle_div_two {i₁ i₂ i₃ : Fin 3} (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃)
```
Comment (felixpernegger) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean:277]: I wonder if it may be useful/convenient to have copies of these lemmas stating "2 *∠ (t.points i₂) (t.points i₁) t.incenter = ∠ (t.points i₂) (t.points i₁) (t.points i₃)"? (not sure)

**Comment by felixpernegger** [comment]
awaiting-author

**Comment by felixpernegger** [comment]
cool lemmas!

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean (hunk 6 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Incenter.lean:305]: See #39696 - rather than making other PRs depend on it, I was assuming that as a straightforward PR that had been requested on Zulip, it would be reviewed quickly and then I could merge master into existing PRs and update them accordingly.

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean (hunk 8 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Incenter.lean:277]: I'm not convinced that's sufficiently useful to be worth duplicating all these lemmas, when you can always substitute this version in if you need the other one. (Most of the time the oriented versions are more useful anyway; it simply happened I needed angle inequalities to prove configuration information, which meant I wanted an explicit expression for the angle involving the incenter.)

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 9]
```diff
@@ -265,6 +267,74 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+section Unoriented
+
+open scoped Module.Oriented.Arbitrary
+
+variable (t : Triangle ℝ P)
+
+/-- The incenter of a triangle bisects the angle at a vertex. -/
+lemma angle_incenter_eq_angle_div_two {i₁ i₂ i₃ : Fin 3} (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃)
+    (h₂₃ : i₂ ≠ i₃) :
+    ∠ (t.points i₂) (t.points i₁) t.incenter = ∠ (t.points i₂) (t.points i₁) (t.points i₃) / 2 := by
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean:281]: This is ABI = ABC/2. Can we also have ABI = IBC? Same for ABE below

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean (hunk 8 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Incenter.lean:279]: I've now added these variants.

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean (hunk 9 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Incenter.lean:281]: I've now added such variants.

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean [hunk 10]
```diff
@@ -265,6 +267,130 @@ lemma eq_excenter_singleton_of_oangle_eq_add_pi_of_oangle_eq_add_pi {p : P}
...
+  let t' : Triangle ℝ S := t.restrict S le_rfl
+  suffices ∠ (t'.points i₂) (t'.points i₁) t'.incenter =
+      ∠ (t'.points i₂) (t'.points i₁) (t'.points i₃) / 2 by
+    simpa [t', ← S.angle_coe] using this
+  exact angle_eq_angle_div_two_of_oangle_eq_of_sSameSide (t'.independent.injective.ne h₁₂.symm)
+    (t'.oangle_incenter_eq h₁₂ h₁₃ h₂₃)
+    (t'.sSameSide_affineSpan_pair_incenter_point h₂₃.symm h₁₃.symm h₁₂.symm)
+
+/-- The incenter of a triangle bisects the angle at a vertex. -/
+lemma two_mul_angle_incenter_eq {i₁ i₂ i₃ : Fin 3} (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃)
```
Comment (YaelDillies) [inline Mathlib/Geometry/Euclidean/Angle/Incenter.lean]: According to the naming convention, a trailing `_eq` should usually be removed. Same below

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Geometry/Euclidean/Angle/Incenter.lean (hunk 10 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Incenter.lean]: Removed trailing `_eq` as requested.

**Comment by faenuccio** [comment]
Thanks

bors d+
